US05866724
Into a 1 liter of four-necked flask were charged 4.76 g of para-toluenesulfonic acid, 54.07 g of ortho-cresol and 108.14 g of methanol. Further, keeping the temperature at 30° C., 38.05 g of 4-hydroxymethyl-2,5-dimethylphenol obtained above was added in ten portions over 1 hour. The mixture was stirred at the same temperature for 2 more hours. After completion of the reaction, 200 g of toluene and 200 gof ethyl acetate was added. Thereafter, 200 g of deionized water was added and the resulting mixture was stirred and a phase separation was carried out. Then, metal content was removed by adding 200 g of 1% aqueous oxalic acid solution, followed by stirring the mixture and by carrying out a phase separation. Thereafter, washing with 200 g of deionized water was repeated four times, and the oil phase was concentrated. To the concentrated mass, 200 g of toluene was added and the resulting solution was cooled to 20° C. and filtered. The filter cake was rinsed with 200 g of toluene and dissolved in 200 g of ethyl acetate. After adding 200g of toluene thereto, the resulting mixture was concentrated. To the concentrated mass, 200 g of toluene was added and the resulting mass was cooled to 20° C. and filtered. The filter cake was rinsed with 200 g of toluene and dried a whole day and night under reduced pressure at 45° C. to obtain 20.12 g of 4-(4-hydroxy-3-methylbenzyl)-2,5-dimethylphenol.

reactant | toluene | 200 g | C1(=CC=CC=C1)C | C7H8
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
reactant | water | 200 g | O | H2O
product | 4-(4-hydroxy-3-methylbenzyl)-2,5-dimethylphenol | 20.12 g | OC1=C(C=C(CC2=CC(=C(C=C2C)O)C)C=C1)C | C16H18O2
